US05098923
a) 1-benzyl-5-[3,3-bis(3,5-dimethylphenyl)-3-hydroxypropyl]-1H-imidazole
1,06 g of magnesium turnings are covered with 30 ml of dry tetrahydrofuran. To the mixture is then added dropwise a solution of 5-bromo-m-xylene (8,14 g) in 10 ml of dry tetrahydrofuran at such a rate that a smooth reaction is maintained. After the addition is complete, the reaction mixture is refluxed for one additional hour and cooled to room temperature. The reaction mixture is then added dropwise to a solution of 1-benzyl-5-imidazole propionic acid ethyl ester (5,0 g) in 40 ml of tetrahydrofuran at 60° C. After the addition is complete, the reaction mixture is refluxed for 2 hours, cooled and poured into cold water. Tetrahydrofuran is evaporated and to the solution is added conc. hydrochloric acid. The solution is cooled, some ether is added and the precipitate which contains the product as hydrochloride salt is removed by filtration, washed and dried. Yield 4,1 g. M.p. 120°-124° C.

reactant | magnesium | 1,06 g | [Mg] | Mg
reactant | 5-bromo-m-xylene | 8,14 g | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | 1-benzyl-5-imidazole propionic acid ethyl ester | 5,0 g | C(C)OC(CCC1=CN=CN1CC1=CC=CC=C1)=O | C15H18N2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-[3,3-bis(3,5-dimethylphenyl)-3-hydroxypropyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCC(O)(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C29H32N2O
